US08314100B2
1-[(6-Fluoro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(3-chlorophenyl)piperazine (Compound 15)
Ethyl N-(6-fluoro-2-methoxyquinoxalin-3-yl)carbamate and 1-(3-chlorophenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound (yield, 70%). 1H NMR (200 MHz, CDCl3): δ 3.30 (s, 4H), 3.76 (s, 3H), 4.13 (s, 4H), 6.77-6.91 (m, 3H), 7.15-7.33 (m, 3H), 7.44-7.58 (d, J=10.0 Hz, 1H), 7.58-7.75 (m, 1H).

reactant | Ethyl N-(6-fluoro-2-methoxyquinoxalin-3-yl)carbamate | FC=1C=C2N=C(C(=NC2=CC1)OC)NC(OCC)=O | C12H12FN3O3
reactant | 1-(3-chlorophenyl)piperazine | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
product | 1-[(6-Fluoro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(3-chlorophenyl)piperazine | 70% | FC=1C=C2N=C(C(=NC2=CC1)OC)NC(=O)N1CCN(CC1)C1=CC(=CC=C1)Cl | C20H19ClFN5O2
